US06331539B1
5-Dimethylamino-1-naphthalenesulfonyl chloride (1.82 g, 6.74 mmol) was added to a mixture of N,N-diisopropylethylamine (1.23 mL, 7.06 mmol), dichloromethane (15 mL) and 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (2.0 g, 6.42 mmol). The reaction mixture was allowed to stir at ambient temperature overnight. Methanol was added to the reaction mixture until a clear solution was obtained. Silica gel was added to the reaction mixture and then the solvents were removed. The silica gel was placed in a column and then eluted with chloroform in a stepwise gradient to 9:1 chloroform:methanol. The resulting product was recrystallized from N,N-dimethylformamide and deionized water to provide 2.5 g of N1-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-5-(dimethylamino)-1-naphthalenesulfonamide as a yellow crystalline solid, m.p. 223-224° C. Analysis: Calculated for C30H36N6O2S: %C, 66.15; % H, 6.66; % N, 15.43; Found: % C, 66.36; % H, 6.34; % N, 15.23.

reactant | 5-Dimethylamino-1-naphthalenesulfonyl chloride | 6.74 mmol, 1.82 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
reactant | N,N-diisopropylethylamine | 7.06 mmol, 1.23 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dichloromethane | 15 mL | ClCCl | CH2Cl2
reactant | 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 6.42 mmol, 2.0 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C18H25N5
solvent | Methanol | CO | CH4O
product | N1-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-5-(dimethylamino)-1-naphthalenesulfonamide | 2.5 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C2=CC=CC1=C(C=CC=C21)N(C)C)CCCC | C30H36N6O2S
